US04200641
To a stirred and hot (50° C.) mixture of 28.3 parts of 1,3-dihydro-1-(1-methylethenyl)-2H-benzimidazol-2-one, 5 parts of N,N,N-triethylbenzenemethanaminium chloride and 225 parts of a sodium hydroxide solution 60% are added dropwise, during a 30 minutes-period, 33.7 parts of 1-bromo-4-chlorobutane. Upon completion, stirring is continued for 5 hours at 60° C. The reaction mixture is cooled, water is added and the product is extracted with methylbenzene. The extract is dried, filtered and evaporated, yielding 1-(4-chlorobutyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one as a residue.

reactant | 1,3-dihydro-1-(1-methylethenyl)-2H-benzimidazol-2-one | CC(=C)N1C(NC2=C1C=CC=C2)=O | C10H10N2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1-bromo-4-chlorobutane | BrCCCCCl | C4H8BrCl
catalyst | N,N,N-triethylbenzenemethanaminium chloride | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | water | O | H2O
product | 1-(4-chlorobutyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one | ClCCCCN1C(N(C2=C1C=CC=C2)C(=C)C)=O | C14H17ClN2O
